US07723367B2
ethyl 3-fluoroisonicotinate
3-fluoro-isonicotinic acid and ethyl alcohol were processed according to the method of Example 128A to provide the product. MS (ESI+) m/z 170 (M+H)+;

reactant | 3-fluoro-isonicotinic acid | FC1=C(C(=O)O)C=CN=C1 | C6H4FNO2
reactant | ethyl alcohol | C(C)O | C2H6O
product | ethyl 3-fluoroisonicotinate | FC1=C(C(=O)OCC)C=CN=C1 | C8H8FNO2
